US08119661B2
Step C. The preparation of ethyl 4-methyl-4-(4-oxo-1-piperidyl)piperidine-1-carboxylate
A solution of oxalyl chloride in dichloromethane (2M, 2.05 mL, 4.1 mmol) was cooled to −78° C. under nitrogen atmosphere and was added to a solution of dimethylsulfoxide (0.58 mL, 8.1 mmol) in dichloromethane (6 mL) at −78° C. under nitrogen atmosphere via cannula. After 10 minutes, a solution of ethyl 4-(4-hydroxy-1-piperidyl)-4-methyl-piperidine-1-carboxylate (2.7 mmol) in dichloromethane (3 mL) was added at −78° C. under nitrogen atmosphere to the reaction mixture via cannula. The mixture was stirred at −78° C. for 10 minutes and then triethylamine (1.51 mL, 10.8 mmol) was added dropwise. The reaction was stirred at −78° C. under nitrogen atmosphere for another 20 minutes, and then allowed to warm up to 0° C. over 1 hour. The reaction was quenched with water (10 mL) and diluted with dichloromethane (30 mL). The phases were separated and the aqueous layer was extracted with dichloromethane (2×25 mL). The combined organic phases were washed with saturated aqueous ammonium chloride, brine, dried over Na2SO4 and concentrated in vacuo to afford the title compound as yellow oil (672 mg, 93%), which was used for the subsequent step without further purification. 1H NMR (400 MHz, CHLOROFORM-D) δ ppm 0.96 (s, 3H), 1.24-1.30 (m, 3H), 1.39-1.53 (m, 2H), 1.72-1.92 (m, 2H), 2.11-2.30 (m, 1H), 2.42 (t, J=5.86 Hz, 2H), 2.51 (t, J=6.05 Hz, 1H), 2.81 (t, J=5.86 Hz, 2H), 2.97 (t, J=6.05 Hz, 1H), 3.22 (t, J=12.01 Hz, 1H), 3.35-3.47 (m, 2H), 3.53-3.72 (m, 2H), 4.14 (q, J=7.10 Hz, 2H). MS (M+1): 269.24.

reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylsulfoxide | 8.1 mmol, 0.58 mL | CS(=O)C | C2H6OS
reactant | ethyl 4-(4-hydroxy-1-piperidyl)-4-methyl-piperidine-1-carboxylate | 2.7 mmol | OC1CCN(CC1)C1(CCN(CC1)C(=O)OCC)C | C14H26N2O3
reactant | triethylamine | 10.8 mmol, 1.51 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 4.1 mmol, 2M, 2.05 mL | ClCCl | CH2Cl2
product | ethyl 4-methyl-4-(4-oxo-1-piperidyl)piperidine-1-carboxylate | 672 mg, 93% | CC1(CCN(CC1)C(=O)OCC)N1CCC(CC1)=O | C14H24N2O3
